US06110922
(2-Bromophenyl)[2-chloro-4-(E-((piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzadehyde, and 6-amino-1-hexanol with piperidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.08 (d, J=1.7 Hz, 1H), 7.80 (dd, J=8.1, 1.4 Hz, 1H), 7.63 (dd, J=8.1, 1.7 Hz, 1H), 7.44 (ap dd, J=7.6, 1.5 Hz, 1H), 7.39 (ap d, J=4.8 Hz, 2H), 7.34 (dt, J=7.5, 1.6, 1H), 7.24 (dd, J=7.5, 1.7, 1H), 7.05 (d, J=8.1 Hz, 1H), 3.65 (br m, 2H), 3.53 (br m, 2H), 1.62 (br m, 2H), 1.50 (br m, 4H). HRMS calculated for C20H19N1O1S1Br1Cl1 : 436.0130. Observed: 436.0122.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | piperidine | N1CCCCC1 | C5H11N
product | (2-Bromophenyl)[2-chloro-4-(E-((piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCCCC1)Cl | C20H19BrClNOS
